US09085578B2
N-(2-((6-bromopyridin-3-yl)oxy)ethyl)acetamide
To a mixture of 2-((6-bromopyridin-3-yl)oxy)ethanamine dihydrochloride obtained in Reference Example 5 (1.00 g), pyridine (1.12 mL) and tetrahydrofuran (20 mL) was added dropwise acetyl chloride (0.368 mL) at 0° C. The reaction mixture was stirred at room temperature for 5 hr, aqueous sodium hydrogen carbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The precipitated solid was collected by filtration, and washed with diisopropyl ether to give the title compound (0.792 g).

reactant | 2-((6-bromopyridin-3-yl)oxy)ethanamine dihydrochloride | Cl.Cl.BrC1=CC=C(C=N1)OCCN
reactant | pyridine | 1.12 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.368 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(2-((6-bromopyridin-3-yl)oxy)ethyl)acetamide | 0.792 g | BrC1=CC=C(C=N1)OCCNC(C)=O | C9H11BrN2O2
